US08008298B2
3-{Hydroxy-[2-(3,4,5-trimethoxy-phenyl)-5H-pyrrolo[2,3-b]pyrazin-7-yl]-methyl}-3-methyl-piperidine-1-carboxylic acid tert-butyl ester was prepared starting from 7-iodo-5-triisopropylsilanyl-2-(3,4,5-trimethoxy-phenyl)-5H-pyrrolo[2,3-b]pyrazine and 3-formyl-3-methyl-piperidine-1-carboxylic acid tert-butyl ester (WO 2002024679) following general procedures as described in these Examples.

reactant | 7-iodo-5-triisopropylsilanyl-2-(3,4,5-trimethoxy-phenyl)-5H-pyrrolo[2,3-b]pyrazine | IC1=CN(C2=NC=C(N=C21)C2=CC(=C(C(=C2)OC)OC)OC)[Si](C(C)C)(C(C)C)C(C)C | C24H34IN3O3Si
reactant | 3-formyl-3-methyl-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC(CCC1)(C)C=O | C12H21NO3
product | 3-{Hydroxy-[2-(3,4,5-trimethoxy-phenyl)-5H-pyrrolo[2,3-b]pyrazin-7-yl]-methyl}-3-methyl-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC(CCC1)(C)C(C1=CNC2=NC=C(N=C21)C2=CC(=C(C(=C2)OC)OC)OC)O | C27H36N4O6
